US05616610
c) (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5- trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran (0.59 g, 2.02 mmol) and collidine (0.37 mL, 2.8 mmol) were dissolved in anhydrous CH2Cl2 (40 mL) and cooled to -40° C. Trifluoromethanesulfonic anhydride (0.41 mL, 2.4 mmol) was added dropwise and allowed to warm to ambient temperature, and after coming to 0° C. the reaction was done. The reaction was diluted with CH2Cl2 and washed with a saturated aqueous NaHCO3 solution, dried (MgSO4), filtered, and evaporated in vacuo to give a crude residue. Chromatography on silica (eluent: CH2Cl2) gave 0.84 g (99% yield) of the title compound as a clear oil. [α]21D =-90.9° (C=0.1; CHCl3) GC-MS (70 eV) M=423 (3%).

reactant | (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 2.02 mmol, 0.59 g | C1(CCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)O | C17H22FNO2
reactant | collidine | 2.8 mmol, 0.37 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Trifluoromethanesulfonic anhydride | 2.4 mmol, 0.41 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5- trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 0.84 g, 99% yield | C1(CCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C18H21F4NO4S
